US06812227B2
The methyl ester of methyl (3S)-4-{[4-({7-[(tert-butoxycarbonyl)amino]-2-heptynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylate was converted into the analogous carboxylic acid using lithium iodide according to the procedure of Example 250 to provide (3S)-4-{[4-({7-[(tert-butoxycarbonyl)amino]-2-heptynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylic acid as a white solid. Electrospray Mass Spec: 541.2 (M+H)+

reactant | methyl (3S)-4-{[4-({7-[(tert-butoxycarbonyl)amino]-2-heptynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylate | C(C)(C)(C)OC(=O)NCCCCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)OC | C26H38N2O7S2
reactant | lithium iodide | [I-].[Li+]
product | (3S)-4-{[4-({7-[(tert-butoxycarbonyl)amino]-2-heptynyl}oxy)phenyl]sulfonyl}-2,2-dimethyl-3-thiomorpholine carboxylic acid | C(C)(C)(C)OC(=O)NCCCCC#CCOC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(SCC1)(C)C)C(=O)O | C25H36N2O7S2
